US06235731B1
2) Synthesis of N-[4-(1,2,3,4-tetrahydroisoquinolin-2-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 1.76 g (4.35 mM) of N-[4-(1,2,3,4-tetrahydroisoquinolin-2-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (10 ml) was added 6 ml (24 mM) of 4N-HCl/methanol at room temperature and the mixture was stirred at room temperature for several minutes. After the solvent was distilled off under reduced pressure, ethanol was added to the residue and the mixture was concentrated. Then, diethyl ether was added and the crystal crop was harvested by filtration and rinsed with ethanol and diethyl ether to provide the title compound.

reactant | N-[4-(1,2,3,4-tetrahydroisoquinolin-2-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 4.35 mM, 1.76 g | C1N(CCC2=CC=CC=C12)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C23H24N4OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[4-(1,2,3,4-tetrahydroisoquinolin-2-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.C1N(CCC2=CC=CC=C12)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C23H24N4OS.2ClH/c28-23(20-14-19-15-25-21-8-5-9-22(29-20)27(19)21)24-11-3-4-12-26-13-10-17-6-1-2-7-18(17)16-26;;/h1-2,5-9,14-15H,3-4,10-13,16H2,(H,24,28);2*1H
